US07569259B2
Synthesis of Comparative Example Compound Sorbitol Hexabenzoate (SHB)
While stirring, 71 parts by weight of benzoyl chloride were dripped over 30 minutes into a mixed solution of 30 parts by weight of sorbitol and 101 parts by weight of triethylamine maintained at 100° C., and the resulting mixture was stirred for an additional 30 minutes. After completion of the reaction, the temperature was lowered to room temperature, and the resulting precipitates were collected by filtration. Thereafter, washing was performed by adding ethyl acetate-pure water. Subsequently, the organic phase was collected and ethyl acetate was distilled out under vacuum, whereby 100 parts by weight (at a yield of 74 percent) of white crystals were obtained. The molecular weight of the resulting compound was 809.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Sorbitol Hexabenzoate | yield of 74 percent | C(C1=CC=CC=C1)(=O)OC[C@H](OC(C1=CC=CC=C1)=O)[C@@H](OC(C1=CC=CC=C1)=O)[C@H](OC(C1=CC=CC=C1)=O)[C@H](OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C48H38O12
